US07799775B2
In 20 ml of tert-butanol, 470 Milligrams of 5-methyl-4-oxo-2-[3-(4-pyridin-2-ylpiperazin-1-yl)propylthio]-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid as synthesized in Example 2-17 was dissolved to which 107 mg of triethylamine and 305 mg of DPPA were added by the order stated, followed by 9 hours' heating under reflux. Distilling the solvent off under reduced pressure, the residue was purified on silica gel column chromatography (chloroform:methanol=50:1). The purified product was added to 6 ml of 4N-hydrochloric acid-dioxane solution, stirred for an overnight and from which the solvent was distilled off under reduced pressure. To the residue chloroform was added, followed by washing with saturated aqueous sodium hydrogencarbonate solution, drying over anhydrous magnesium sulfate and removal of the solvent by distillation under reduced pressure. The residue was purified on silica gel column chromatography (chloroform:methanol=25:1) to provide 78 mg (18%) of 6-amino-5-methyl-2-[3-(4-pyridin-2-ylpiperazin-1-yl)propylthio]-3H-thieno[2,3-d]pyrimidin-4-one.

reactant | 5-methyl-4-oxo-2-[3-(4-pyridin-2-ylpiperazin-1-yl)propylthio]-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid | CC1=C(SC=2N=C(NC(C21)=O)SCCCN2CCN(CC2)C2=NC=CC=C2)C(=O)O | C20H23N5O3S2
reactant | triethylamine | 107 mg | C(C)N(CC)CC | C6H15N
reactant | DPPA | 305 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | tert-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | 6-amino-5-methyl-2-[3-(4-pyridin-2-ylpiperazin-1-yl)propylthio]-3H-thieno[2,3-d]pyrimidin-4-one | 78 mg, 18% | NC1=C(C2=C(N=C(NC2=O)SCCCN2CCN(CC2)C2=NC=CC=C2)S1)C | C19H24N6OS2
